US04540690
To a solution of 1 g (5.3 mmol) of the E-isomer of N-[2-(phenylmethylene)cyclohexyl]amine in 20 ml of diethyl ether at 0° C., there was added 1.23 g (5.8 mmol) of trifluoroacetic anhydride over 20 min. The resulting mixture was stirred for 2 hr at room temperature. Ice was added and the pH of the mixture was adjusted to 7-8 with sodium hydroxide and stirred for 1 hr. The ether layer was washed with water and then with saturated sodium chloride solution, dried with magnesium sulfate and evaporated. The resulting crystalline solid residue, 1.4 g, was recrystallized from a diethyl ether/petroleum ether (30°-60° C. bp) mixture to obtain a crystalline solid (±)-(E)-2,2,2-trifluoro-N-[2-(phenylmethylene)cyclohexyl]acetamide, mp 109°-110° C.; GC QF-1 column 100%, retention time 4.57 min, UCW-982 column 100%, retention time 5.62 min; UV λmax(ε)242(14,500). Mass Spectrum M+ 283. The IR and NMR spectra were also consistent with this trifluoroacetamide compound, E isomer.

reactant | N-[2-(phenylmethylene)cyclohexyl]amine | C1(=CC=CC=C1)C=C1C(CCCC1)N | C13H17N
reactant | trifluoroacetic anhydride | 5.8 mmol, 1.23 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | (±)-(E)-2,2,2-trifluoro-N-[2-(phenylmethylene)cyclohexyl]acetamide | FC(C(=O)NC1/C(/CCCC1)=C/C1=CC=CC=C1)(F)F | C15H16F3NO
